US04784474
In 100 ml of toluene were dissolved 4.8 g of 2,3,3-trimethylindolenine, 5.6 g of 2-methylbenzyl bromide, 4.7 g of α-nitroso-β-naphthol and 5.0 g of piperidine. Nitrogen gas was bubbled into the solution for 10 minutes and then the solution was refluxed in a nitrogen current for 2 hours. After the reaction, the reaction mixture was concentrated and then column chromatography separation was carried out by using silica gel as a supporting carrier and toluene as a developing solvent. The solvent was removed by distillation and the obtained solid was recrystallized from methanol to obtain a white crystal of 1-(2-methylbenzyl)-3,3-dimethylspiro[indoline-2,3'-[3H]-naphtho[2,1-b](1,4)-oxazine].

reactant | 2,3,3-trimethylindolenine | 4.8 g | CC1=NC2=CC=CC=C2C1(C)C | C11H13N
reactant | 2-methylbenzyl bromide | 5.6 g | CC1=C(CBr)C=CC=C1 | C8H9Br
reactant | α-nitroso-β-naphthol | 4.7 g | N(=O)C1=C(C=CC2=CC=CC=C12)O | C10H7NO2
reactant | piperidine | 5.0 g | N1CCCCC1 | C5H11N
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(2-methylbenzyl)-3,3-dimethylspiro[indoline-2,3'-[3H]-naphtho[2,1-b](1,4)-oxazine] | CC1=C(CN2C3=CC=CC=C3C(C23C=NC2=C(O3)C=CC3=CC=CC=C32)(C)C)C=CC=C1 | C29H26N2O
